US05849779
N-phenyl-N'-(1-benzyl-4-ethoxycarbonylpyrazol-3-yl)urea
To a solution of triphosgene (35.7 mg) in THF (2 ml), was slowly added a solution of 3-amino-1-benzyl-4-ethoxycarbonylpyrazole (30 mg) and diisopropylethylamine (0.0936 ml) in THF (1 ml) over 15 min, and the resulted mixture was stirred at 40° C. for 5 h. To this, was added a solution of aniline (0.0111 ml) and diisopropylethylamine (0.0936 ml) in THF (1 ml), and the resulted mixture was further stirred to react. After completion of the reaction, water was added followed by evaporation under reduced pressure. Ether was added to the residue to crystallize the title compound (32 mg, yield 71%). The product gave the similar 1H-NMR spectrum to an authentic sample prepared by a reported method [Chem. Pharm. Bull., 20, 391-397 (1972)].

reactant | triphosgene | 35.7 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-amino-1-benzyl-4-ethoxycarbonylpyrazole | 30 mg | NC1=NN(C=C1C(=O)OCC)CC1=CC=CC=C1 | C13H15N3O2
reactant | diisopropylethylamine | 0.0936 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | aniline | 0.0111 ml | NC1=CC=CC=C1 | C6H7N
reactant | diisopropylethylamine | 0.0936 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-phenyl-N'-(1-benzyl-4-ethoxycarbonylpyrazol-3-yl)urea | 32 mg, yield 71% | C1(=CC=CC=C1)NC(=O)NC1=NN(C=C1C(=O)OCC)CC1=CC=CC=C1 | C20H20N4O3
